US07897767B2
Using the general method of Example 5 Part B, a solution of tert-butyl[2-(2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate (27.45 g, 76.1 mmol) in chloroform (500 mL) was treated with 3-chloroperoxybenzoic acid (25.6 g of 77% max, 114 mmol) and the resulting 5-oxide was aminated using ammonium hydroxide (150 mL) and para-toluenesulfonyl chloride (17.4 g, 91.3 mmol) to provide 41.83 g of crude tert-butyl[2-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate as a brown solid. A portion (˜32 g) of the crude material was dissolved in dichloromethane and then washed with 1 N hydrochloric acid (×3). The organic layer was allowed to stand for several days and a precipitate formed. This material was isolated by filtration to provide 7.0 g of tert-butyl[2-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate as an off white solid.

reactant | tert-butyl[2-(2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 76.1 mmol, 27.45 g | C(C)(C)(C)OC(NCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCl)=O | C18H21ClN4O2
reactant | 3-chloroperoxybenzoic acid | 114 mmol, 25.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 150 mL | [OH-].[NH4+]
reactant | para-toluenesulfonyl chloride | 91.3 mmol, 17.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl[2-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 41.83 g | C(C)(C)(C)OC(NCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCl)=O | C18H22ClN5O2
